US07309718B2
(d) 3-Chloro-2-methoxycarbonylbenzyltriphenylphosphonium bromide
To a mixture of 27.6 g of methyl 2-chloro-6-bromomethylbenzoate and 39.0 g of triphenylphosphine was added 200 ml of acetonitrile, and the mixture was stirred at 80° C. for 3 hours.

reactant | methyl 2-chloro-6-bromomethylbenzoate | 27.6 g | ClC1=C(C(=O)OC)C(=CC=C1)CBr | C9H8BrClO2
reactant | triphenylphosphine | 39.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3-Chloro-2-methoxycarbonylbenzyltriphenylphosphonium bromide | [Br-].ClC=1C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1)C(=O)OC | InChI=1S/C27H23ClO2P.BrH/c1-30-27(29)26-21(12-11-19-25(26)28)20-31(22-13-5-2-6-14-22,23-15-7-3-8-16-23)24-17-9-4-10-18-24;/h2-19H,20H2,1H3;1H/q+1;/p-1
